US05192642
Bis(cyclopentadienyl)bis[2,6-difluoro-3-(4-tolylsulfonyloxy)phenyl]titanium
4.4 g (0.010 mol) of bis(cyclopentadienyl)bis(2,6-difluoro-3-hydroxyphenyl)titanium are suspended in 100 ml of toluene in a sulfation flask under nitrogen as protective gas. 5.7 g (0.030 mol) of toluene-4-sulfonyl chloride are then added. 30 ml of 1N sodiumhydroxide solution (0.030 mol) are then added dropwise. The reaction is slightly exothermic, and the temperature of the reaction mixture gradually increases to 40° C. The mixture is stirred for a further 3 hours while the temperature drops (thin-layer check of the reaction). 100 ml of ice-water and 100 ml of ether are then added. The organic phase is separated off and washed several times with a little water until the washings are neutral. The organic phase is dried using magnesium sulfate and evaporated on a vacuum rotary evaporator. An orange product remains which, after purification by chromatography on silica gel using toluene as eluent, gives orange crystals having a melting point of 185°-187° C.

reactant | bis(cyclopentadienyl)bis(2,6-difluoro-3-hydroxyphenyl)titanium | 0.010 mol, 4.4 g | C1(C=CC=C1)[Ti](C1=C(C(=CC=C1F)O)F)(C1=C(C(=CC=C1F)O)F)C1C=CC=C1
reactant | toluene-4-sulfonyl chloride | 0.030 mol, 5.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodiumhydroxide | 0.030 mol, 1N, 30 ml | [OH-].[Na+]
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Bis(cyclopentadienyl)bis[2,6-difluoro-3-(4-tolylsulfonyloxy)phenyl]titanium | C1(C=CC=C1)[Ti](C1=C(C(=CC=C1F)OS(=O)(=O)C1=CC=C(C=C1)C)F)(C1=C(C(=CC=C1F)OS(=O)(=O)C1=CC=C(C=C1)C)F)C1C=CC=C1 | InChI=1S/2C13H9F2O3S.2C5H5.Ti/c2*1-9-2-5-11(6-3-9)19(16,17)18-13-7-4-10(14)8-12(13)15;2*1-2-4-5-3-1;/h2*2-7H,1H3;2*1-5H;
